US06008243
According to the procedure described in Example 1(a), 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]succinamic acid benzyl ester was hydrogenolyzed in EtOH/THF for 3 h to give a 54% yield of 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]succinamic acid: mp 206-210° C. (dec); 1HNMR (DMSO-d6): δ 12.0 (bs, 1H), 8.31 (d, 1H, J=8.45 Hz), 7.93 (s, 4H), 7.86 (d, 2H, J=8.5 Hz), 7.63 (d, 2H, J=8.8 Hz), 7.33-7.30 (m, 2H), 6.81 (s, 2H), 6.18 (s, 1H), 5.02 (dd, 1H, J=15.8, 8.8 Hz), 3.86 (dd, 1H, J=9.6, 4.8 Hz), 2.87 (dd, 1H, J=16.9, 10.3 Hz), 2.60 (dd, 1H, J=16.5, 4.8 Hz), 1.7-1.5 (m, 3H), 0.87 (d, 3H, J=6.6 Hz), 0.84 (d, 3H, J=5.9 Hz); HRFABMS Calculated for C29H29N5O3Cs (M+Cs): 628.1325 Found: 628.1335.

reactant | 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](CC(C)C)C=1NC=CN1)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C36H35N5O3
solvent | EtOH THF | CCO.C1CCOC1
product | 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]succinamic acid | 54% yield | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)N1C=C(C=C1)[C@H](CC(=O)O)C(=O)N[C@@H](CC(C)C)C=1NC=CN1 | C29H29N5O3
